US06462042B1
Intermediate 21 3-(4-Chlorophenyl)propionaldehyde
To a stirred solution of oxalyl chloride (2.04 ml) in dichloromethane (40 ml) at −78° C. was added dimethyl sulphoxide (3.33 ml), and the reaction stirred for 10 min. 3-(4-Chlorophenyl)propanol (2.0 g) in dichloromethane (20 ml) was added and the reaction stirred at −78° C. for 75 min. Triethylamine (11.53 ml) was added, the reaction allowed to warm to room temperature, and stirred for 30 min. Water (150 ml) was added, and the reaction extracted with dichloromethane (2×100 ml). The combined organic extracts were washed with water (3×100 ml), dried over magnesium sulphate (2 g), and the solvent removed in vacuo to yield a yellow oil. This was purified by flash chromatography (silica, eluent dichloromethane) to yield the title compound as a pale yellow oil (0.96 g).

reactant | oxalyl chloride | 2.04 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 3.33 ml | CS(=O)C | C2H6OS
reactant | 3-(4-Chlorophenyl)propanol | 2.0 g | ClC1=CC=C(C=C1)CCCO | C9H11ClO
reactant | Triethylamine | 11.53 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Water | 150 ml | O | H2O
product | 3-(4-Chlorophenyl)propionaldehyde | 0.96 g | ClC1=CC=C(C=C1)CCC=O | C9H9ClO
